* \\vmware-host\Shared Folders\non-work-projects\battery-capacity-meter-2024\ltspice\tl431-analog-switch.asc
V1 VCC 0 5
C3 2.5V 0 10µ
R7 VCC 2.5V 300
R10 V1 2.5V 2k
XU1 0 2.5V 2.5V TL431
R1 0 V1 1.333k
M1 N001 N002 0 0 AO6408
V2 N002 0 PULSE(0 5 15m 40u 40u 50m 1000)
R3 N001 V1 800
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Igor\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 100m 10m
.inc TL431.lib
* Vin must be same or higher\nthan charger voltage
* 1W
* min voltage 12V\nmax voltage 30V\nsets battery max voltage
.backanno
.end
